US08349885B2
Preparation 12: Synthesis of 5-methyl-7-nitro-2-pyridin-2-yl-1H-indole
(4-Methyl-2-nitrophenyl)hydrazine hydrochloride (10 g, 49 mmol) and 2-acetylpyridine (5.5 ml, 49 mmol) were reacted according to the same procedures as Preparations 4 to 5 to give the title compound (2 g, Yield 16%).

reactant | (4-Methyl-2-nitrophenyl)hydrazine hydrochloride | 49 mmol, 10 g | Cl.CC1=CC(=C(C=C1)NN)[N+](=O)[O-]
reactant | 2-acetylpyridine | 49 mmol, 5.5 ml | C(C)(=O)C1=NC=CC=C1 | C7H7NO
product | 5-methyl-7-nitro-2-pyridin-2-yl-1H-indole | 2 g, Yield 16% | CC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C1=NC=CC=C1 | C14H11N3O2
